US06518268B1
In an argon atmosphere, 5-bromo-2-(4-chlorophenylthio)-3-(dimethoxymethyl)thiophene (1.04 g, 2.75 mmol) was dissolved in tetrahydrofuran (15 mL) and the mixture was cooled to −78° C. n-Butyl lithium (1.6 mol/L hexane solution; 2.5 mL, 4.1 mmol) was added thereto, followed by stirring for 5 minutes. Dry ice (about 1 g) was added thereto, followed by stirring for 10 minutes. Water and 1 mol/L sodium hydroxide aqueous solution was added to the reaction liquid so that pH becomes 10, and the mixture was washed with ether. 1 mol/L Hydrochloric acid was added to the aqueous layer so that pH becomes 3, and the aqueous layer was extracted with ethyl acetate. The organic layer was washed with water and brine and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was dissolved in tetrahydrofuran (10 mL). 1 mol/L hydrochloric acid (2 mL) was added thereto, followed by stirring at room temperature for 2 hours. Water was added to the reaction liquid and the product was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was triturated with isopropyl ether to give 2-(4-chlorophenylthio)-3-formyl-5-thiophenecarboxylic acid (439 mg, 54%).

reactant | 5-bromo-2-(4-chlorophenylthio)-3-(dimethoxymethyl)thiophene | 2.75 mmol, 1.04 g | BrC1=CC(=C(S1)SC1=CC=C(C=C1)Cl)C(OC)OC | C13H12BrClO2S2
reactant | n-Butyl lithium | 4.1 mmol, 1.6 mol/L, 2.5 mL | C(CCC)[Li]
reactant | Dry ice | about 1 g | C(=O)=O | CO2
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-(4-chlorophenylthio)-3-formyl-5-thiophenecarboxylic acid | 439 mg, 54% | ClC1=CC=C(C=C1)SC=1SC(=CC1C=O)C(=O)O | C12H7ClO3S2
